US06143762
2-(4-Aminobutyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline
A solution of 7-methoxy-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline (17.4 g 0.0478 mol) and hydrazine monohydrate (4.6 ml, 0.095 mol) in ethanol (300 ml) were stirred at room temperature for 18 h and at reflux for 1 h. The cooled reaction mixture was filtered and the filtrate evaporated in vacuo. The residue was dissolved in 2.5N hydrochloric acid, filtered through Kieselguhr and the filtrate basified with 0.880 ammonia. The product was extracted into dichloromethane (4×200 ml), the combined extracts were dried (Na2SO4) and evaporated in vacuo to afford the title compound as a brown oil (7 g, 63%).

reactant | 7-methoxy-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline | 0.0478 mol, 17.4 g | COC1=CC=C2CCN(CC2=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H24N2O3
reactant | hydrazine monohydrate | 0.095 mol, 4.6 ml | O.NN
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(4-Aminobutyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline | 7 g, 63% | NCCCCN1CC2=CC(=CC=C2CC1)OC | C14H22N2O
